US06521666B1
1-Bromo-2,4-dimethoxy-6-cyanobenzene
To a solution of 3,5-dimethoxybenzonitrile (2 g) in CH2Cl2 (100 mL) was added pyridinium tribromide (4 g). The mixture was stirred for 24 h at room temperature then washed successively with aqueous NaHCO3, water and brine, dried (MgSO4) filtered and evaporated. The residue was crystallized from CH2Cl2 and hexane to yield the title compound (1.8 g).

reactant | 3,5-dimethoxybenzonitrile | 2 g | COC=1C=C(C#N)C=C(C1)OC | C9H9NO2
reactant | pyridinium tribromide | 4 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-Bromo-2,4-dimethoxy-6-cyanobenzene | 1.8 g | BrC1=C(C=C(C=C1C#N)OC)OC | C9H8BrNO2
